US04944795
4,4-Dibromo-N-(4-chlorophenyl)-2,2-dimethyl-3-butenamide (Compound 47)
Using the procedure described by Corey and Fuchs, Tetrahedron Letters, p 3769, 1972, N-(chlorophenyl)-2,2-dimethyl-3-oxopropanamide (1 g), which was prepared as described in Example 9, and carbon tetrabromide (3 g) were dissolved in 75 mL of dichloromethane, the solution was cooled, and triphenylphosphine (4.6 g) in 20 mL of dichloromethane was added dropwise over 30 minutes. After the solution was stirred one hour, an additional 1 g of triphenylphosphine was added. Ether (100 mL) was then added, and the solution was filtered through a silica gel column to remove triphenylphosphine oxide (eluting with ether). The filtrate fractions which contained the product were concentrated to give the title compound, a solid, m.p. 104° C.

reactant | N-(chlorophenyl)-2,2-dimethyl-3-oxopropanamide | 1 g | ClC1=C(C=CC=C1)NC(C(C=O)(C)C)=O | C11H12ClNO2
reactant | carbon tetrabromide | 3 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 4.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triphenylphosphine | 1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Ether | 100 mL | CCOCC | C4H10O
reactant | dichloromethane | 75 mL | ClCCl | CH2Cl2
reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4,4-Dibromo-N-(4-chlorophenyl)-2,2-dimethyl-3-butenamide | BrC(=CC(C(=O)NC1=CC=C(C=C1)Cl)(C)C)Br | C12H12Br2ClNO
